US04402733
90.5 g of 1-ethylcyclopropanecarboxylic acid chloride is stirred in 100 ml of acetonitrile:trichloroethylene (1:1) with 79.3 g of CuCN for 12 hours at 80° C. The cooled suspension is filtered, the filtrate is evaporated to dryness and the residue is distilled to yield 65 g of colourless 1-ethylcyclopropylcarboxylic acid cyanide having a boiling point at 60 millibars of 88° C.

reactant | 1-ethylcyclopropanecarboxylic acid chloride | 90.5 g | C(C)C1(CC1)C(=O)Cl | C6H9ClO
reactant | CuCN | 79.3 g | C(#N)[Cu]
solvent | acetonitrile trichloroethylene | 100 ml | C(C)#N.ClC=C(Cl)Cl
product | 1-ethylcyclopropylcarboxylic acid cyanide | 65 g | C(C)C1(CC1)C(=O)C#N | C7H9NO
